US04281188
80 g (0.28 M) of 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one are dissolved in 220 ml of concentrated hydrochloric acid and chlorine gas is slowly conducted into the solution at -10° C. for 4 hours. The mixture is slowly poured on to a mixture of ice and sodium carbonate solution (250 g of sodium carbonate dissolved in water) and extracted with methylene chloride. The extract is dried over sodium sulphate, filtered and concentrated. The residue is purified on a 1.2 kg silica gel column using methylene chloride and then methylene chloride/ethyl acetate (10:1) as the eluting agent and crystallised from ethyl acetate/ether/n-hexane. There is obtained 7-amino-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one which melts at 240° C.

reactant | 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.28 M, 80 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1 | C16H14FN3O
reactant | chlorine | ClCl | Cl2
reactant | sodium carbonate | 250 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 220 ml | Cl | ClH
product | 7-amino-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1Cl | C16H13ClFN3O
